US06417212B1
B. 2-(4-{2-[2-(2′,6′-Difluorobiphenyl-4-yl)-5-methyloxazol-4-yl]-ethoxy}-phenoxy)-2-methylpropionic acid
Under nitrogen, 2-(4-{2-[2-(2′,6′-difluoro-biphenyl-4-yl)-5-methyloxazol-4-yl]-ethoxy}-phenoxy)-2-methylpropionic acid ethyl ester (0.53 mmol) in ethanol (2.5 mL) and THF (2.5 mL) was treated with 2.0 N NaOH (2.0 mL). The reaction mixture was stirred at 55° C. for 1 h and concentrated in vacuo. The resulting slurry was suspended in ethyl acetate, acidified to pH 1 with 1N HCl, and partitioned. The organic layer was washed with brine, dried (Na2SO4), and concentrated in vacuo to provide the product as a solid. 1H NMR (400 MHz, CDCl3) δ8.05 (d, J=8.0 Hz, 2H), 7.54 (d, J=8.0 Hz, 2H), 7.34-7.28 (m, 1H), 7.02-6.98 (m, 2H), 6.91-6.78 (m, 4H), 4.17 (t, J=6.6 Hz, 2H), 2.97 (t, J=6.6 Hz, 2H), 2.39 (s, 3H), 1.53 (s, 6H); MS (EI) 494.5 (M+H)+.

reactant | 2-(4-{2-[2-(2′,6′-difluoro-biphenyl-4-yl)-5-methyloxazol-4-yl]-ethoxy}-phenoxy)-2-methylpropionic acid ethyl ester | 0.53 mmol | C(C)OC(C(C)(C)OC1=CC=C(C=C1)OCCC=1N=C(OC1C)C1=CC=C(C=C1)C1=C(C=CC=C1F)F)=O | C30H29F2NO5
reactant | NaOH | 2.0 N, 2.0 mL | [OH-].[Na+]
solvent | ethanol | 2.5 mL | C(C)O | C2H6O
solvent | THF | 2.5 mL | C1CCOC1 | C4H8O
product | 2-(4-{2-[2-(2′,6′-Difluorobiphenyl-4-yl)-5-methyloxazol-4-yl]-ethoxy}-phenoxy)-2-methylpropionic acid | FC1=C(C(=CC=C1)F)C1=CC=C(C=C1)C=1OC(=C(N1)CCOC1=CC=C(OC(C(=O)O)(C)C)C=C1)C | C28H25F2NO5
